US07157579B2
A mixture of 202 mg of 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-3-methoxycarbonyl-3,4-dihydro-1H-pyridin-2-one, 52 mg of lithium chloride, 2 ml of dimethyl sulfoxide and 10 μl of water was stirred at 120° C. for one hour. The reaction mixture was cooled to room temperature, and then water was poured therein and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 70 mg of 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-3,4-dihydro-1H-pyridin-2-one.

reactant | 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-3-methoxycarbonyl-3,4-dihydro-1H-pyridin-2-one | 202 mg | ClC1=C(OC2(C(NC=CC2)=O)C(=O)OC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C19H14ClF4N3O6
reactant | lithium chloride | 52 mg | [Cl-].[Li+]
reactant | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | water | 10 μl | O | H2O
product | 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-3,4-dihydro-1H-pyridin-2-one | 70 mg | ClC1=C(OC2C(NC=CC2)=O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C17H12ClF4N3O4
